US07863269B2
14b) N-Methoxy-N-methyl-5-pentafluorosulfanyl-3-(2,2,2-trifluoroacetylamino)-benzamide
3-Amino-N-methoxy-N-methyl-5-pentafluorosulfanylbenzamide (77 mg) was dissolved in methylene chloride (3 ml) and triethylamine (42 μl) followed by trifluoroacetic anhydride (45 μl) was added with stirring with exclusion of moisture. After stirring at RT for 3 h and standing overnight, water and saturated sodium hydrogencarbonate solution were added, the phases were separated and the methylene chloride phase was additionally washed three times with water, dried over magnesium sulfate, filtered and concentrated. The product obtained (86 mg) was employed without further purification in the next stage.

reactant | 3-Amino-N-methoxy-N-methyl-5-pentafluorosulfanylbenzamide | 77 mg | NC=1C=C(C(=O)N(C)OC)C=C(C1)S(F)(F)(F)(F)F | C9H11F5N2O2S
reactant | triethylamine | 42 μl | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 45 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-Methoxy-N-methyl-5-pentafluorosulfanyl-3-(2,2,2-trifluoroacetylamino)-benzamide | CON(C(C1=CC(=CC(=C1)S(F)(F)(F)(F)F)NC(C(F)(F)F)=O)=O)C | C11H10F8N2O3S
